US07576094B2
To a solution of 6-Hydroxy-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one (2.2 g) in 20 mL of THF at 0° C. was added sodium hydride (370 mg, 60% in mineral oil). After 5 min, MOM-Cl (0.96 mL) was added slowly to the reaction. After the reaction was complete, the mixture was extracted with ethyl acetate and was washed with water. The organic layer was separated and dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was purified by flash chromatography eluted with 20% ethyl acetate in hexane to give 2.0 g of 6-(methoxymethoxy)--5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one as a yellow paste.

reactant | 6-Hydroxy-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one | 2.2 g | OC=1C(=C2C(CC3(CCC3)OC2=C(C1C)C)=O)C | C15H18O3
reactant | sodium hydride | 370 mg | [H-].[Na+]
reactant | MOM-Cl | 0.96 mL | C(OC)Cl | C2H5ClO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-(methoxymethoxy)--5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one | 2.0 g | COCOC=1C(=C2C(CC3(CCC3)OC2=C(C1C)C)=O)C | C17H22O4
